US08377968B2
Synthesis of ethyl 2-(4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)ethylcarbamate (Compound 36)
A solution of N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (66 mg, 0.17 mmol) in a 2:1 mixture of CH2Cl2:DMF (3 mL) and TEA (69 μL, 0.50 mmol) was treated with ethyl chloroformate (27 mg, 0.25 mmol). The reaction mixture was allowed to stir overnight, then the solvent was removed in vacuo and the residue was purified by HiTOPs.

reactant | N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | 0.17 mmol, 66 mg | NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H21F6N3O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | ethyl chloroformate | 0.25 mmol, 27 mg | ClC(=O)OCC | C3H5ClO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(4-((3,5-bis(trifluoromethyl)benzamido)methyl)piperidin-1-yl)ethylcarbamate | FC(C=1C=C(C(=O)NCC2CCN(CC2)CCNC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C20H25F6N3O3
